US09376394B2
Preparation of 4-{5[bis-(2-hydroxyethyl)amino]-1-methyl, 1H-benzoimidazol-2-yl}-butyric acid isopropyl ester
4-(5-Amino-1-methyl-1H-benzoimidazol-2-yl)-butyric acid isopropyl ester (15.0 g), water (30 mL), 2-chloroethanol (15.6 mL, 4.0 M) and triethyl amine (22.7 mL 3.0 M), are charged into a round bottom flask and stirred. The reaction mixture is heated to about 70-75° C. and maintained for about 2 hours. 2-Chloroethanol (7.8 mL, 2.0 M) and triethylamine (22.7 mL, 3.0 M) are added to the reaction mixture and stirred at the same temperature for about 90 minutes. 2-Chloroethanol (7.8 mL, 2.0 M) and triethylamine (22.7 mL, 3.0 M) are added to the reaction mixture and stirred at the same temperature for about 2 hours. 2-Chloroethanol (7.8 mL, 2.0 M) is added to the reaction mixture and stirred at the same temperature for about 4 hours. Triethylamine (11.3 mL, 1.5 M) is added to the reaction mixture and maintained at the same temperature for about 4 hours. The reaction mixture is cooled to 25-30° C., then dematerialized water (300 mL) is added and stirred. The reaction mass is extracted with dichloromethane (3×150 mL). The obtained dichloromethane extract is washed with saturated sodium bicarbonate solution (150 mL), followed by saturated sodium chloride (150 mL), and dried over sodium sulfate. The dichloromethane layer is concentrated under vacuum at about 40-45° C. to give a residue, which is dissolved in ethyl acetate (75 mL) and concentrated at 40-45° C. under vacuum to give a viscous mass. The obtained mass is dissolved in ethyl acetate (45 mL), then n-hexane (225 mL) is added slowly at 27° C. and stirred for 1 hour. The obtained solid is collected by filtration, washed, and dried in a vacuum oven at 45-50° C. for about 4-5 hours, to give the title compound. Yield: 13.0 g (68%).

reactant | 4-(5-Amino-1-methyl-1H-benzoimidazol-2-yl)-butyric acid isopropyl ester | 15.0 g | C(C)(C)OC(CCCC1=NC2=C(N1C)C=CC(=C2)N)=O | C15H21N3O2
reactant | water | 30 mL | O | H2O
reactant | 2-chloroethanol | 4.0 M, 15.6 mL | ClCCO | C2H5ClO
reactant | triethyl amine | 3.0 M, 22.7 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Chloroethanol | 2.0 M, 7.8 mL | ClCCO | C2H5ClO
reactant | triethylamine | 3.0 M, 22.7 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Chloroethanol | 2.0 M, 7.8 mL | ClCCO | C2H5ClO
reactant | triethylamine | 3.0 M, 22.7 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Chloroethanol | 2.0 M, 7.8 mL | ClCCO | C2H5ClO
reactant | Triethylamine | 1.5 M, 11.3 mL | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 225 mL | CCCCCC | C6H14
product | 4-{5[bis-(2-hydroxyethyl)amino]-1-methyl, 1H-benzoimidazol-2-yl}-butyric acid isopropyl ester | C(C)(C)OC(CCCC1=NC2=C(N1C)C=CC(=C2)N(CCO)CCO)=O | C19H29N3O4
